US06916956B2
2-Methyl-1-(naphthalen-2-yl)-2-propanol
2-Methylnaphthalene (7.11 g) was dissolved in tetrahydrofuran (100 ml) and the solution was cooled to −69° C. To the solution was added dropwise a 1.6M n-butyllithium-tetrahydrofuran solution (34 ml), and then a solution of acetone (4.41 ml) in tetrahydrofuran (4.41 ml). The reaction mixture was stirred for 12 hr while allowing to warm to room temperature. To the reaction mixture was added dropwise saturated ammonium chloride solution (6 ml), and the resulting mixture was poured into water (200 ml) and extracted with diethyl ether. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=85:15) to give the title compound (3.80 g).

reactant | 2-Methylnaphthalene | 7.11 g | CC1=CC2=CC=CC=C2C=C1 | C11H10
reactant | n-butyllithium tetrahydrofuran | 1.6M, 34 ml | C(CCC)[Li].O1CCCC1
reactant | acetone | 4.41 ml | CC(=O)C | C3H6O
reactant | ammonium chloride | 6 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.41 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 2-Methyl-1-(naphthalen-2-yl)-2-propanol | 3.80 g | CC(CC1=CC2=CC=CC=C2C=C1)(C)O | C14H16O
